US08871934B2
4-methyl-9-oxo-9H-fluorene-2-carboxylic acid
A mixture of 2′-methyl-biphenyl-2,4′-dicarboxylic acid (1.94 g) and polyphosphoric acid (50 g) was stirred at 180° C. for 3 hr. The reaction mixture was cooled to room temperature, water (100 ml) was slowly added dropwise, and the mixture was further stirred at room temperature for 10 min. This suspension was filtered, and the obtained solid was successively washed with water (50 ml) and 50 v/v % aqueous methanol solution (50 ml). The obtained solid was air-dried, and dried under reduced pressure at 80° C. to give the title compound (1.745 g, 97%).

reactant | 2′-methyl-biphenyl-2,4′-dicarboxylic acid | 1.94 g | CC1=C(C=CC(=C1)C(=O)O)C=1C(=CC=CC1)C(=O)O | C15H12O4
solvent | water | 100 ml | O | H2O
product | 4-methyl-9-oxo-9H-fluorene-2-carboxylic acid | 1.745 g, 97% | CC1=CC(=CC=2C(C3=CC=CC=C3C12)=O)C(=O)O | C15H10O3
